US07259183B2
5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-cyclopropylmethoxy-phenyl)-ethyl]-amide
122 mg of 5-chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-hydroxy-phenyl)-ethyl]-amide (0.25 mmol) and 52 mg potassium carbonate (0.375 mmol) were suspended in 5 ml acetonitrile and treated with 0.027 ml bromomethyl-cyclopropane (0.275 mmol). The mixture was stirred for 24 h in an oil-bath heated to 80° C. After cooling down, the mixture was poured on water/EtOAc, and after separation the aqueous phase was extracted with EtOAc. The combined organic phases were then washed with water and brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (8 g silicagel, heptane/EtOAc 9:1) leading to 66 mg of 5-chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-cyclopropylmethoxy-phenyl)-ethyl]-amide as a colorless viscous oil. MS (ISP) 515.5 (M+H)+.

reactant | 5-chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-hydroxy-phenyl)-ethyl]-amide | 0.25 mmol, 122 mg | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=C(C=C3C=CNC23)Cl)CCC2=CC(=CC=C2)O)C=C1 | C28H29ClN2O2
reactant | potassium carbonate | 0.375 mmol, 52 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromomethyl-cyclopropane | 0.275 mmol, 0.027 ml | BrCC1CC1 | C4H7Br
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-cyclopropylmethoxy-phenyl)-ethyl]-amide | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=C(C=C3C=CNC23)Cl)CCC2=CC(=CC=C2)OCC2CC2)C=C1 | C32H35ClN2O2
